US08541421B2
5,6-Dimethylthieno[2,3-d]pyrimidine-2,4-diamine
A mixture of 2-amino-4,5-dimethylthiophene-3-carbonitrile (500 mg, 3.29 mmol), cyanoguanidine (276.6 mg, 3.29 mmol) and HCl (2 N, 1.5 mL) in water (10 mL) was refluxed under nitrogen for 2 h. The reaction mixture was cooled to room temperature, and basified with diluted NaOH aqueous solution to PH 7˜8. After evaporation of water, the residue was purified by preparative HPLC eluting with acetonitrile and water to give the title compound (33 mg, 5%). 1H NMR (400 MHz, DMSO-d6) δ2.22 (s, 3H), 2.27 (s, 3H), 5.85 (bs, 2H), 6.29 (bs, 2H). MS 195 (MH+).

reactant | 2-amino-4,5-dimethylthiophene-3-carbonitrile | 3.29 mmol, 500 mg | NC=1SC(=C(C1C#N)C)C | C7H8N2S
reactant | cyanoguanidine | 3.29 mmol, 276.6 mg | C(#N)NC(=N)N | C2H4N4
reactant | HCl | 2 N, 1.5 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
product | 5,6-Dimethylthieno[2,3-d]pyrimidine-2,4-diamine | 33 mg, 5% | CC1=C(SC=2N=C(N=C(C21)N)N)C | C8H10N4S
